US05472978
a) Ethyl-2-acetamido-2-carbethoxy-3-(3,4-dichlorophenyl)propionate
Sodium pellets were dissolved in ethanol (200 ml). Diethyl acetamidomalonate (6.53 g) was added and the solution stirred for 30 minutes. 3,4-Dichlorobenzyl bromide (10.0 g), was added and the solution refluxed for 3.5 hours. The solution was filtered whilst hot and allowed to cool before water (200 ml) was added. On standing at 4° C. for 12 hours the title compound precipitated as colourless crystals which were removed by filtration and dried under vacuum (9.27 g). 1H NMR (360 MHz, CDCl3) δ7.32 (1H, d, J=8 Hz), 7.10 (1H, d, J=2 Hz), 6.85 (1H, dd, J=8, 2 Hz), 6.55 (1H, s), 4.28 (2H, m), 3.62 (2H, s), 2.05 (3H, s), 1.3 (3H, t, J=7 Hz).

reactant | Sodium | [Na] | Na
reactant | Diethyl acetamidomalonate | 6.53 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 3,4-Dichlorobenzyl bromide | 10.0 g | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Ethyl-2-acetamido-2-carbethoxy-3-(3,4-dichlorophenyl)propionate | C(C)OC(C(CC1=CC(=C(C=C1)Cl)Cl)(C(=O)OCC)NC(C)=O)=O | C16H19Cl2NO5
